US09376422B2
Synthesis of Compound 18: 3-(cyclopentyl(methyl)amino)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-5-(1-methylpiperidin-4-yl)benzamide
To a solution of 3-(cyclopentyl(methyl)amino)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-5-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)benzamide (0.045 g, 0.097 mmol) in ethanol added 10% Pd/C and the reaction was stirred under H2 at bladder pressure. After complete consumption of the starting material reaction mixture was filtered through celite. The filtrate was concentrated and triturated in acetonitrile and filtered to provide the desired compound (0.030 g, 66%): LCMS: 465.40 (M+1)+; HPLC: 95.39% (@ 254 nm) (Rt; 3.884; Method: Column: YMC ODS-A 150 mm×4.6 mm×5μ; Mobile Phase: A; 0.05% TFA in water/B; 0.05% TFA in acetonitrile; Inj. Vol: 10 μL, Col. Temp.: 30° C.; Flow rate: 1.4 mL/min.; Gradient: 5% B to 95% B in 8 min, Hold for 1.5 min, 9.51-12 min 5% B); 1H NMR (DMSO-d6, 400 MHz) δ 11.44 (s, 1H), 7.98 (t, 1H), 7.00 (s, 1H), 6.77 (s, 1H), 5.85 (s, 1H), 4.25 (d, 2H, J=4.4 Hz), 3.42 (m, 1H), 2.84 (d, 2H, J=11.2 Hz), 2.47 (s, 3H), 2.37 (m, 1H), 2.18 (s, 6H), 2.15 (s, 3H), 2.10 (s, 3H), 1.93 (t, 2H, J=10.8 Hz), 1.70-1.55 (m, 8H), 1.48 (m, 2H), 1.38 (m, 2H).

reactant | 3-(cyclopentyl(methyl)amino)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-5-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)benzamide | 0.097 mmol, 0.045 g | C1(CCCC1)N(C=1C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C=C(C1)C=1CCN(CC1)C)C)C | C28H38N4O2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 3-(cyclopentyl(methyl)amino)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-5-(1-methylpiperidin-4-yl)benzamide | 0.030 g, 66% | C1(CCCC1)N(C=1C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C=C(C1)C1CCN(CC1)C)C)C | C28H40N4O2
